US08563575B2
To a suspension of 2-(4-bromophenoxy)-1-methyl-1H-benzimidazole (1.0 g), Pd2(dba)3 (0.076 g), sodium tert-butoxide (0.48 g) and xantphos (0.19 g) in dioxane (10 mL) was added benzophenone imine (0.83 ml), and the mixture was stirred at 100° C. under Ar atmosphere for 6 h. After stirring at room temperature overnight, the mixture was poured into water, and the mixture was extracted with AcOEt. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residual crystals were washed with AcOEt to obtain N-(diphenylmethylidene)-4-[(1-methyl-1H-benzimidazol-2-yl)oxy]aniline (0.81 g) as pale yellow crystals.

reactant | 2-(4-bromophenoxy)-1-methyl-1H-benzimidazole | 1.0 g | BrC1=CC=C(OC2=NC3=C(N2C)C=CC=C3)C=C1 | C14H11BrN2O
reactant | sodium tert-butoxide | 0.48 g | CC(C)([O-])C.[Na+]
reactant | xantphos | 0.19 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | benzophenone imine | 0.83 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.076 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | N-(diphenylmethylidene)-4-[(1-methyl-1H-benzimidazol-2-yl)oxy]aniline | 0.81 g | C1(=CC=CC=C1)C(=NC1=CC=C(C=C1)OC1=NC2=C(N1C)C=CC=C2)C2=CC=CC=C2 | C27H21N3O
